US07635684B2
To a solution of 4-(2-benzyloxyethyl)-1-bromobenzene (6.8 g) in tetrahydrofuran (80 mL) was added n-butyl lithium (2.6 mol/L n-hexane solution, 8.98 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 30 minutes. To the reaction mixture was added N,N-dimethylformamide (20 mL), and the mixture was allowed to warm to 0° C. and stirred for 2 hours. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethylacetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-(2-benzyloxyethyl)benzaldehyde (5.6 g). This material was dissolved in methanol (80 mL). To the solution was added sodium borohydride (1.77 g) under ice-cooling, and the mixture was stirred at room temperature overnight. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue (solid) was treated with n-hexane, collected by filtration and dried under reduced pressure to give the title compound (5.41 g).

reactant | 4-(2-benzyloxyethyl)-1-bromobenzene | 6.8 g | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)Br | C15H15BrO
reactant | n-butyl lithium | 2.6 mol/L, 8.98 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 4-(2-benzyloxyethyl)benzaldehyde | 5.6 g | C(C1=CC=CC=C1)OCCC1=CC=C(C=O)C=C1 | C16H16O2
